US08957105B2
Under a nitrogen atmosphere, 7-(Benzothiazole-6-carbonyl)-1,4-dioxa-spiro[4.5]decan-8-one (271 mg, 0.85 mmol) was dissolved in ethanol (1 mL). 2.43 M sodium ethoxide solution (0.01 mL, 0.03 mmol) was added. After 12 hrs, reaction was concentrated in vacuo. The residue was diluted with 10 mL EtOAc/5 mL 10% citric acid. The layers were separated. The aqueous layer was further extracted with EtOAc (3×3 mL). The combined organic layers were washed with water (5 mL) and brine (5 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by silica gel column (40% EtOAc/hexanes) to yield 3-[2(3-Benzothiazol-6-yl-3-oxo-propyl)-[1,3]dioxolan-2-yl]-propionic acid ethyl ester (100 mg, 38%, light yellow oil).

reactant | 7-(Benzothiazole-6-carbonyl)-1,4-dioxa-spiro[4.5]decan-8-one | 0.85 mmol, 271 mg | S1C=NC2=C1C=C(C=C2)C(=O)C2CC1(OCCO1)CCC2=O | C16H15NO4S
reactant | sodium ethoxide | 0.03 mmol, 2.43 M, 0.01 mL | [O-]CC.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[2(3-Benzothiazol-6-yl-3-oxo-propyl)-[1,3]dioxolan-2-yl]-propionic acid ethyl ester | C(C)OC(CCC1(OCCO1)CCC(=O)C1=CC2=C(N=CS2)C=C1)=O | C18H21NO5S
